Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
neutropenic fever
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo man with HIV on HAART and stage IV (T3
N1a M1) invasive poorly differentiated squamous cell carcinoma 
of
distal rectum/ anal canal, on chemoradiation with ___ and
mitomycin C (c/b chemotherapy interruption) presenting with
neutropenic fever. Patient called his oncologist to report a
fever of 100.8 and was asked to come in because of concern for
ANC of 1000. 
He reports having intermittent fevers for past ___ days and high
grade for past 1 day, as high as 102.9. a/w chills.
He also reports diarrhea, ___ BMs, watery missed with stools,
foul smelling, non bloody. Diarrhea started after his last 
chemo.
He was initially taking Imodium which had controlled the 
diarrhea
but then stopped taking it ___ days ago. NO N/V. He has severe
pain and spasms in the anal area which is chronic for him, no
abdominal pain.
He reports mild chronic burning in urine and bladder which has
remained unchanged. No cough/phlegm. no skin rash. no URI like
symptoms.
No known sick contacts.

In ED,
His initial vitals were 102.9 100 115/62 20 100% RA.
He was given 1L NS x 2, Cefepime 2gm IV, Vancomycin 1gm IV

Of note,
His last  chemo was ___. He was admitted in ___ for port
infection and discharged on ___ on a week of doxycycline.

REVIEW OF SYSTEMS: A complete 10-point review of systems was
performed and was negative unless otherwise noted in the HPI. 

 
Past Medical History:
ONCOLOGIC HISTORY:
- ___: High grade anal dysplasia on screening. Lost to
follow up
- ___: Rectal pain, bleeding and discharge
- ___: Seen by Dr. ___ noticed a 3x4 cm mass in
distal rectum. Biopsy showed at least squamous cell carcinoma in
situ. Concurrent pap smear showed no malignant cells. He also 
had
malodorous rectal discharge and per patient report, was found to
have "E.coli" on culture. He was started on antibiotic course
with bactrim for 10 days. 
- ___: Evaluated by Dr. ___ who noticed 
distal
rectal/ anal junction friable fixed mass, most consistent with 
an invasive cancer. 
- ___: Flexible sigmoidoscopy showed fungating, partially
circumferential non-obstructing large mass in distal rectum 
which
was very friable with minimal contact. Biopsy showed poorly
differentiated squamous cell carcinoma. The tumor cells were
positive for P40, CK5/6 and p16. They were negative for CK7,
CK20, synaptophysin, chromogranin and CDX2. Mucicarmine stain 
was
negative. ___ stain showed proliferative index of 95%.
- ___: Staging PET/CT showed 5.9 cm FDG avid rectal mass,
and FDG uptake in presacral, left common iliac, left internal
iliac, and perirectal regions.
- ___: MRI rectum showed rectal mass along with abnormal
perirectal, mesorectal, left internal iliac, and perisigmoidal
lymphadenopathy. Imaging stage was T3 N1a M1.
CT torso showed no distant visceral metastases.
- Colorectal surgery recommended against diverting colostomy; as
risks would outweigh any potential benefits.
- Started on chemoradiation with XRT and ___ + mitomycin C
- ___: Start XRT
- ___: C1D1 ___ C
- ___: Removed port dressing + T of 100.5 F; disconnected
___
- ___: ___ infusion re-connected
- ___: Cellulitis at port site; ___ infusion disconnected;
OMED admission due to failure of oral cephalexin.
- ___: Admitted for cellulitis & pain control.
Improved with IV vancomycin. Started on diltiazem & topical NTG
for pain.
- ___: D29-32 of ___ + mitomycin C 

PAST MEDICAL HISTORY:
- HIV on HAART
- Dysplastic nevus of trunk 
- Secondary Syphilis; Lymphogranuloma venereum
- Shigella and salmonella colitis (___)
- Testicular hydrocele 
- Depressive disorder
- IV drug use
- Appendix rupture s/p appendectomy
- Excision of BCC on L forearm
- Septoplasty
 
Social History:
___
Family History:
- Paternal grandmother: melanoma
- ___ aunt: ___ cancer
 
Physical Exam:
Admission Exam:
=============
VS: 98.8PO 114 / 62 87 22 100 RA 
GENERAL: middle aged well build gentleman in distress due to 
anal
pain, does not appear acutely ill
HEENT: no pallor. no icterus. mmm
CARDIAC: Regular rate and rhythm, no murmurs, rubs or gallops.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Non-distended, normal bowel sounds, soft, non-tender, no
guarding. Superficial skin ulcers in ___ area.
EXT: Warm, well perfused. No lower extremity edema. No erythema
or tenderness.
NEURO: Alert and oriented, normal speech
SKIN: Right chest wall port site clean/non tender. Radiation
burns in pelvic area including genitals.

Discharge Exam:
=============
VS: T 97.8 BP 96/56 HR 71 RR 18 97 RA
GENERAL: middle aged well build gentleman in NAD
HEENT: no pallor. no icterus. 
CARDIAC: Regular rate and rhythm, no murmurs, rubs or gallops.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Non-distended, normal bowel sounds, soft, non-tender, no
guarding. Perianal skin ulcers.
EXT: Warm, well perfused. No lower extremity edema. No erythema
or tenderness.
NEURO: Alert and oriented, normal speech
SKIN: Right chest wall port site clean/non tender. Radiation
dermatitis in pelvic area including genitals.

 
Pertinent Results:
Admission Labs:
============
___ 06:54PM BLOOD WBC-1.4* RBC-3.33* Hgb-10.1* Hct-29.5* 
MCV-89 MCH-30.3 MCHC-34.2 RDW-13.5 RDWSD-43.1 Plt ___
___ 06:54PM BLOOD Neuts-61.1 Lymphs-9.7* Monos-27.1* 
Eos-1.4 Baso-0.7 AbsNeut-0.88* AbsLymp-0.14* AbsMono-0.39 
AbsEos-0.02* AbsBaso-0.01
___ 06:54PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-OCCASIONAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL 
Ovalocy-1+*
___ 06:54PM BLOOD Plt Smr-LOW* Plt ___
___ 06:54PM BLOOD Glucose-113* UreaN-15 Creat-0.9 Na-135 
K-4.1 Cl-97 HCO3-26 AnGap-12
___ 06:54PM BLOOD Calcium-8.7 Phos-3.1 Mg-1.8

Imaging:
======
___ MR PELVIS W&W/O CONTRAS:
1. Interval decrease in bulk of the known lower rectal/anal 
neoplasm, now with
an area of intralesional focal ulceration containing trace fluid 
measuring up
to 20 x 14 x 9 mm.  No evidence of abscess.
2. Note, ill-defined enhancing signal extends from the anterior 
aspect of the
anal mass anteriorly toward the prostatic apex, likely related 
to treatment
effect and/or underlying known tumor.  Attention to this area on 
follow-up.
3. Interval decrease in size of mesorectal and superior 
rectal/superior
hemorrhoidal lymph nodes, as above.

Discharge Labs:
===============
___ 05:20AM BLOOD WBC-1.8* RBC-3.44* Hgb-10.7* Hct-31.1* 
MCV-90 MCH-31.1 MCHC-34.4 RDW-14.5 RDWSD-45.0 Plt ___
___ 05:20AM BLOOD Neuts-54.2 Lymphs-12.8* Monos-29.1* 
Eos-2.2 Baso-0.0 Im ___ AbsNeut-0.97* AbsLymp-0.23* 
AbsMono-0.52 AbsEos-0.04 AbsBaso-0.00*
___ 05:20AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+* 
Macrocy-NORMAL Microcy-NORMAL Polychr-1+* Ovalocy-1+*
___ 05:20AM BLOOD ___ PTT-27.7 ___
___ 05:20AM BLOOD Glucose-103* UreaN-16 Creat-0.9 Na-140 
K-4.3 Cl-100 HCO3-26 AnGap-14
___ 05:20AM BLOOD Calcium-9.0 Phos-3.9 Mg-2.___ with HIV on HAART and stage IV (T3 N1a M1) invasive poorly 
differentiated squamous cell carcinoma of distal rectum/ anal 
canal, who was admitted on ___ with neutropenic fever in setting 
of recent chemoradiation with ___ and mitomycin C. 

#Neutropenic fever: 
Developed fever with Tmax 102.9 on day prior to admission 
associated with chills, diarrhea, and worsening rectal pain. No 
other localizing symptoms. Flu PCR negative. C.diff, norovirus 
PCR and other stool cultures negative. Final urine culture with 
no growth. Port site clean.
Blood cultures negative. Given worsening rectal symptoms, MRI 
pelvis obtained and was negative for pelvic abscess or other 
concerning acute findings. ANC trended daily with nadir of 460 
on ___. ANC increased to 970 on day of discharge. Patient 
treated with cefepime throughout stay without any recurrent 
fevers. 

#Chronic cancer-associated pain:
#Proctalgia fugax: 
Exacerbated in setting of active XRT. Continued extensive 
outpatient regimen consisting of diazepam for spasms, diltiazem 
to decrease rectal tone, and oxycodone prn. Pain improved 
throughout admission and well-controlled at time of discharge. 
Expect ongoing improvement as he recovers from XRT and 
chemotherapy. 

#HIV infection: Last CD4 50, VL negative in ___.
Continued emtricitab-rilpivir-tenofo ala 200-25-300 mg ordered 
separately as combo pill was non-formularly. 

#Invasive Anal SCC: 
Stage IV (T3 N1a M1) invasive poorly differentiated squamous 
cell carcinoma of distal rectum/ anal canal. 
Patient of Dr. ___. On curative intent treatment with 
chemoradiation with
___ and XRT. Last received chemotherapy ___. 
While inpatient, completed last fraction of XRT. Plan to follow 
up with outpatient oncology team on ___. 

TRANSITIONAL ISSUES:
--------------------
[] Medication changes: none
[] repeat CBC w/ diff for ___ monitoring
[] continue to monitor rectal pain and adjust regimen as 
clinically indicated. 

#EMERGENCY CONTACT /HCP: ___ (friend/ partner) 
___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID 
2. emtricita-rilpivirine-tenof DF 200-25-300 mg oral DAILY 
3. Psyllium Powder 1 PKT PO DAILY 
4. Senna 8.6 mg PO BID:PRN constipation 
5. Diazepam 5 mg PO Q12H:PRN muscle spasm pain 
6. OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
7. Polyethylene Glycol 17 g PO DAILY 
8. Diltiazem 30 mg PO Q12H proctalgia fugax 
9. Ondansetron 8 mg PO Q8H:PRN nausea 

 
Discharge Medications:
1.  Diazepam 5 mg PO Q12H:PRN muscle spasm pain  
2.  Diltiazem 30 mg PO Q12H proctalgia fugax  
3.  Docusate Sodium 100 mg PO BID  
4.  emtricita-rilpivirine-tenof DF 200-25-300 mg oral DAILY  
5.  Ondansetron 8 mg PO Q8H:PRN nausea  
6.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
7.  Polyethylene Glycol 17 g PO DAILY  
8.  Psyllium Powder 1 PKT PO DAILY  
9.  Senna 8.6 mg PO BID:PRN constipation  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Neutropenic fever
Radiation proctitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege to care for you. You were admitted for a 
serous condition known as neutropenic fever, which can occur in 
patients receiving marrow suppressing medications, including 
mitomycin. You required IV antibiotics and close monitoring of 
your blood counts, which have now improved. It is now safe for 
you to be discharged home. 

Please follow up at your previously scheduled oncology 
appointments on ___. Please contact your oncologist or come to 
the ED immediately if you development recurrent fever. 

We wish you the best,
Your ___ Team
 
Followup Instructions:
___